* Schematics Netlist *



V_Vb         basis 0 0V
Q_Q1         Va basis emitter Q2N3904
V_Vin         source 0 5V
R_Re         0 emitter  100  
R_Rc         Va source  220  
R_R2         0 basis  1.8k  
R_R1         basis source  6.8k  
